US04766115
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and sodium isopropylate in isopropanol there is obtained isopropyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and therefrom with hydrochloric acid in alcohol there is obtained the hydrochloride, m.p. 158° C. (with decomposition);

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | sodium | [Na] | Na
reactant | isopropanol | C(C)(C)O | C3H8O
product | isopropyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OC(C)C)=N | C18H20N2O
